US07618980B2
Part B. (±)-cis tert-Butyl 6-methoxy-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]quinoline-2(9bH)-carboxylate
To a solution of (±)-cis tert-butyl 6-methoxy-4-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]quinoline-2(9bH)-carboxylate (1.4 g, 4.5 mmol) in 30 mL of THF at 0° C. was added borane THF complex (20 mL of a 1 M solution in THF, 20 mmol) dropwise. The reaction was allowed to warm to ambient temperature and was stirred for 2 h. The reaction was quenched carefully with water and extracted with ethyl acetate. The organics were washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography to afford 1.26 g (92%) of the title compound. 1H NMR (CDCl3) (some signals doubled due to rotamers): δ 6.68-6.55 (overlapping m, 3H), 4.42 (broad s, 1H), 3.95-3.82 (m, 1H), 3.78 (s, 3H), 3.64-3.55 (m, 1H), 3.38-3.15 (overlapping m, 4H), 3.02-2.92 (m, 1H), 2.52-2.42 (m, 1H), 3.63 and 3.61 (s, 9H).

reactant | (±)-cis tert-butyl 6-methoxy-4-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]quinoline-2(9bH)-carboxylate | 4.5 mmol, 1.4 g | COC1=CC=CC=2[C@@H]3[C@H](C(NC12)=O)CN(C3)C(=O)OC(C)(C)C | C17H22N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (±)-cis tert-Butyl 6-methoxy-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]quinoline-2(9bH)-carboxylate | 1.26 g, 92% | COC1=CC=CC=2[C@@H]3[C@H](CNC12)CN(C3)C(=O)OC(C)(C)C | C17H24N2O3
